US06599910B1
c) 1-(6-Aminopyrimidin-4-yl)-3-phenyl-5-(4-fluorophenyl)-1,2,4-triazole
A mixture of 1-(4-chloropyrimidin-6-yl)-3-phenyl-5-(4-fluorophenyl)-1,2,4-triazine (0.080 g, 0.23 mmol) and concentrated NH4OH was heated to 120° C. for 18 h in a sealed reaction vessel. After cooling the reaction to ambient temperature, the precipitate which had formed was collected and washed with water, air-dried and dried in vacuo at 40° C. to afford the title compound as a white solid; yield 0.030 g (39%): ES MS m/z=333 (MH+).

reactant | 1-(4-chloropyrimidin-6-yl)-3-phenyl-5-(4-fluorophenyl)-1,2,4-triazine | 0.23 mmol, 0.080 g | ClC1=NC=NC(=C1)N1NC(=NC(=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C19H13ClFN5
reactant | NH4OH | [NH4+].[OH-]
product | 1-(6-Aminopyrimidin-4-yl)-3-phenyl-5-(4-fluorophenyl)-1,2,4-triazole | NC1=CC(=NC=N1)N1N=C(N=C1C1=CC=C(C=C1)F)C1=CC=CC=C1 | C18H13FN6
